US07410967B2
5-Aminopyridazine-4-carboxylic acid ethyl ester (1.26 g, prepared according to J. Het. Chem., (1968), 5, 845) was dissolved in dry toluene (125 ml) at 90° C., and DMAP (0.92 g) was added. 2,4,6-Trifluorophenylacetyl chloride (1.75 g of 95% purity material) was added dropwise with stirring at 70° C., and a white solid precipitated. The reaction was stirred at reflux for 5 hours and then filtered hot. The filtrate was evaporated to give 5-[2-(2,4,6-trifluorophenyl)-acetylamino]-pyridazine-4-carboxylic acid ethyl ester as a white solid (2.6 g), m.p. 143-144° C.

reactant | 5-Aminopyridazine-4-carboxylic acid ethyl ester | 1.26 g | C(C)OC(=O)C1=CN=NC=C1N | C7H9N3O2
reactant | 2,4,6-Trifluorophenylacetyl chloride | 1.75 g | FC1=C(C(=CC(=C1)F)F)CC(=O)Cl | C8H4ClF3O
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.92 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[2-(2,4,6-trifluorophenyl)-acetylamino]-pyridazine-4-carboxylic acid ethyl ester | 2.6 g | C(C)OC(=O)C1=CN=NC=C1NC(CC1=C(C=C(C=C1F)F)F)=O | C15H12F3N3O3
